US09420793B2
The starting material, tert-butyl 5′-[3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-2-enoyl]-3′H-spiro[azetidine-3,1′-isobenzofuran]-1-carboxylate (3.0 g, 6.0 mmoL), was dissolved in dichloromethane (14 mL) and to this solution were added thioacetic acid (2.6 mL, 6.0 eq) and 2 drops of triethylamine and the resulting mixture was stirred at room temperature for 96 h under argon. Solvents were removed under reduced pressure and the crude product was purified via flash silica gel chromatography to yield 1.3 g of tert-butyl 5′-[3-(3,5-dichloro-4-fluorophenyl)-3-thioacetyl-4,4,4-trifluorobutanoyl]-3′H-spiro[azetidine-3,1′-isobenzofuran]-1-carboxylate. HNMR (400 MHz, CDCl3) δ ppm 8.01 (d, 1H, J=8.0 Hz), 7.82 (s, 1H), 7.60 (d, 1H, J=8.0 Hz), 7.45 (d, 1H, J=5.8 Hz), 5.23 (d, 1H, J=18.5 Hz), 5.17 (s, 2H), 4.35 (d, 2H, J=9.7 Hz), 4.15 (d, 2H, J=9.7 Hz), 3.97 (d, 1H, J=18.5 Hz), 2.33 (s, 3H), 1.50 (s, 9H).

reactant | tert-butyl 5′-[3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-2-enoyl]-3′H-spiro[azetidine-3,1′-isobenzofuran]-1-carboxylate | 3.0 g | ClC=1C=C(C=C(C1F)Cl)C(=CC(=O)C=1C=C2COC3(C2=CC1)CN(C3)C(=O)OC(C)(C)C)C(F)(F)F | C25H21Cl2F4NO4
reactant | thioacetic acid | 2.6 mL, 6.0 eq | C(C)(=S)O | C2H4OS
solvent | dichloromethane | 14 mL | ClCCl | CH2Cl2
catalyst | triethylamine | 2 drops | C(C)N(CC)CC | C6H15N
product | tert-butyl 5′-[3-(3,5-dichloro-4-fluorophenyl)-3-thioacetyl-4,4,4-trifluorobutanoyl]-3′H-spiro[azetidine-3,1′-isobenzofuran]-1-carboxylate | 1.3 g | ClC=1C=C(C=C(C1F)Cl)C(CC(=O)C=1C=C2COC3(C2=CC1)CN(C3)C(=O)OC(C)(C)C)(C(F)(F)F)C(C)=S | C27H25Cl2F4NO4S
